US07544703B2
2-Amino-4-bromomethylpyridine hydrobromide (Reference Compound No. 14-1)
(2-Aminopyridin-4-yl)methanol (15 g, 12 mmol) was suspended in a 47% aqueous hydrobromic acid solution (120 mL, 72 mmol) at room temperature, and the mixture was stirred for 6 hours at outer temperature 120° C. The mixture was stirred for 15 hours at room temperature, then the precipitated solid was filtered off and washed with ethyl acetate. The solid was dried under reduced pressure to give 23 g of the title reference compound as a gray solid. (Yield 71%)

reactant | (2-Aminopyridin-4-yl)methanol | 12 mmol, 15 g | NC1=NC=CC(=C1)CO | C6H8N2O
reactant | hydrobromic acid | 72 mmol, 120 mL | Br | BrH
product | 2-Amino-4-bromomethylpyridine hydrobromide | Yield 71% | Br.NC1=NC=CC(=C1)CBr | InChI=1S/C6H7BrN2.BrH/c7-4-5-1-2-9-6(8)3-5;/h1-3H,4H2,(H2,8,9);1H
